* Z:\home\drizzi\uni\LabCircuiti\Simulazioni_LTSpice\Notchdefinitivo.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N003 0 SINE(0 5) AC 5
C2 N001 N002 0.9µ
L1 N001 N002 486.2µ Rser=2.5
R1 N001 0 100
Rv N002 N003 50
.ac dec 100 100 30000
.backanno
.end
